US05405852
EXAMPLE 6. 2-(8-Carboxy-1,2-dihydropyrido[3,4-b]indol-2-yl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide
2-(8-Carboxy-1,2,3,4-tetrahydropyrido[3,4-b]indol-2-yl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide (0.14 g) was dissolved in dioxane (50 mL), and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (0.45 g) was added. The resulting solution was allowed to stir overnight. Ethyl acetate (150 mL) was added and the solution was washed (H2O, brine), dried, and evaporated. The resulting solid was recrystallized from ethyl acetate to give the title compound (0.056 g); mp 260-262° C.

reactant | 2-(8-Carboxy-1,2,3,4-tetrahydropyrido[3,4-b]indol-2-yl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 0.14 g | C(=O)(O)C=1C=CC=C2C3=C(NC12)CN(CC3)CC(=O)NC(C(C(F)(F)F)=O)C(C)C | C20H22F3N3O4
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.45 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | Ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 2-(8-Carboxy-1,2-dihydropyrido[3,4-b]indol-2-yl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 0.056 g | C(=O)(O)C=1C=CC=C2C3=C(NC12)CN(C=C3)CC(=O)NC(C(C(F)(F)F)=O)C(C)C | C20H20F3N3O4
